US04075341
2-(m-Aminophenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline
2-(m-Nitrophenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline (11.7 g.) is hydrogenated at atmospheric pressure and at room temperature in the presence of 3 g. of 10% Pd on charcoal. The product obtained is purified by crystallization from a 50:50 mixture of ethyl acetate and isopropyl ether. Yield 8.5 g. of the title product which melts at 118°-9° C.

reactant | 2-(m-Nitrophenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | 11.7 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H12N4O2
catalyst | Pd on charcoal | [Pd] | Pd
product | 2-(m-Aminophenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | NC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H14N4
